US04713387
In 10 ml of ethanol was dissolved 500 mg of (E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyl alcohol, and to the resulting solution was added 100 mg of 5% palladium-carbon, and the resulting mixture was stirred at room temperature in a hydrogen atmosphere for 2.5 hours. The reaction mixture thus obtained was filtered and the filtrate thus obtained was concentrated under reduced pressure to obtain 500 mg (yield 99.1%) of colorless, oily 3-[4-(pyridin-3-ylmethyl)phenyl]propanol.

reactant | (E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyl alcohol | 500 mg | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C/CO | C15H15NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 3-[4-(pyridin-3-ylmethyl)phenyl]propanol | yield 99.1% | N1=CC(=CC=C1)CC1=CC=C(C=C1)CCCO | C15H17NO
